US04777252
(F) [[[4,5-Bis(phenylmethoxy)-2-pyridinyl]amino]methylene]malonic acid, diethyl ester
A suspension of 4,5-bis(phenylmethoxy)-2-pyridinamine (8.7 g, 28.4 mmol) in diethyl ethoxymethylenemalonate (61.4 g, 284.0 mmol) was heated to 120° C. (bath temperature) for 2 hours. The major part of the diethyl ethoxymethylenemalonate was distilled off in vacuo and 100 ml of ether was added after cooling. The mixture was stored in the refrigerator overnight. The resulting crystals were filtered off with suction, washed with ether and dried in vacuo. Yield: 10.81 g; melting point 117.3° C.

reactant | 4,5-bis(phenylmethoxy)-2-pyridinamine | 28.4 mmol, 8.7 g | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)N | C19H18N2O2
reactant | diethyl ethoxymethylenemalonate | 284.0 mmol, 61.4 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | [[[4,5-Bis(phenylmethoxy)-2-pyridinyl]amino]methylene]malonic acid, diethyl ester | C1(=CC=CC=C1)COC1=CC(=NC=C1OCC1=CC=CC=C1)NC=C(C(=O)OCC)C(=O)OCC | C27H28N2O6
